US06528543B1
A solution of 3-{3-[3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionyl]-ureido}-propionic acid (20 mg, 0.05 mmol) in methanol (5 mL) was treated with concentrated sulfuric acid (4 drops). This solution was heated to 80° C. for 8 h. At this time, the reaction was cooled to 25° C. and diluted with water (10 mL). This solution extracted with ethyl acetate (3×20 mL). The organics were washed with a saturated aqueous sodium bicarbonate solution (1×20 mL), a saturated aqueous sodium chloride solution (1×20 mL) and water (1×10 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate) afforded 3-{3-[3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionyl]-ureido}-propionic acid methyl ester (18 mg, 86%) as a white solid: 93.6-95.8° C.: EI-HRMS m/e calcd for C19H24Cl2N2O4 (M+) 414.1113, found 414.1114.

reactant | 3-{3-[3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionyl]-ureido}-propionic acid | 0.05 mmol, 20 mg | C1(CCCC1)CC(C(=O)NC(NCCC(=O)O)=O)C1=CC(=C(C=C1)Cl)Cl | C18H22Cl2N2O4
reactant | methanol | 5 mL | CO | CH4O
catalyst | sulfuric acid | 4 drops | S(O)(O)(=O)=O | H2O4S
solvent | water | 10 mL | O | H2O
product | 3-{3-[3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionyl]-ureido}-propionic acid methyl ester | 18 mg, 86% | COC(CCNC(=O)NC(C(CC1CCCC1)C1=CC(=C(C=C1)Cl)Cl)=O)=O | C19H24Cl2N2O4
